US07495126B2
Preparation of potassium 2-hydroxy-5-(2,3,5,6-tetrafluoro-4-trifluoromethyl-benzylamino)benzoate
2-hydroxy-5-(2,3,5,6-tetrafluoro-4-trifluoromethyl-benzylamino)benzoic acid (10 g, 0.261 mole), as prepared in Example 3, was added to anhydrous ethanol (500 ml) and then the temperature was allowed to rise to 50° C. for complete dissolution. The resulting solution was cooled to 10° C. The pH of the solution was adjusted to 6.8-7.0 using a separately prepared solution of 85%-potassium hydroxide (17.22 g, 0.261 mole) and anhydrous ethanol (30 ml). The reaction mixture was stirred for 2 hours at room temperature and then the precipitated crystals were filtered and dried to give 100.8 g (0.239 mole, 91.7% yield) of potassium 2-hydroxy-5-(2,3,5,6-tetrafluoro-4-trifluoromethyl-benzylamino)benzoate as the desired compound.

reactant | 2-hydroxy-5-(2,3,5,6-tetrafluoro-4-trifluoromethyl-benzylamino)benzoic acid | 0.261 mole, 10 g | OC1=C(C(=O)O)C=C(C=C1)NCC1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F | C15H8F7NO3
reactant | potassium hydroxide | 0.261 mole, 17.22 g | [OH-].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | potassium 2-hydroxy-5-(2,3,5,6-tetrafluoro-4-trifluoromethyl-benzylamino)benzoate | 0.239 mole, 100.8 g, 91.7% yield | OC1=C(C(=O)[O-])C=C(C=C1)NCC1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F.[K+] | InChI=1S/C15H8F7NO3.K/c16-10-7(11(17)13(19)9(12(10)18)15(20,21)22)4-23-5-1-2-8(24)6(3-5)14(25)26;/h1-3,23-24H,4H2,(H,25,26);/q;+1/p-1
